US08008303B2
3-Nitro-4-trifluoromethoxybenzoic acid
To a stirred solution of 4-trifluoromethoxybenzoic acid (2.96 g) in concentrated sulphuric acid (19 ml) at room temperature was added a mixture of concentrated nitric acid (8.5 ml) and concentrated sulphuric acid (8.5 ml) drop-wise. After 15 min a white precipitate had formed. The reaction was slowly poured onto ice (approx. 100 ml). Once the ice had melted the resulting suspension was filtered, and the residue washed with water (3×10 ml) and then dried in vacuo to give the title compound as a white solid (3.41 g).

reactant | 4-trifluoromethoxybenzoic acid | 2.96 g | FC(OC1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O3
reactant | nitric acid | 8.5 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 19 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulphuric acid | 8.5 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Nitro-4-trifluoromethoxybenzoic acid | 3.41 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1OC(F)(F)F | C8H4F3NO5
